US05189054
Step c: 3-[(2-Acetoxyphenacyl)amino]-2-carboxy-6-chloroindole
Dissolve 3-amino-2-carbmethoxy-6-chloroindole (1 g, 4.4 mmol) in anhydrous tetrahydrofuran (50 mL). Add triethylamine (4.8 mmol) and acetylsalicoyl chloride (4.8 mmol) and stir for 5 minutes. Dilute into ethyl acetate (500 mL), separate the organic phase, wash with water, saturated sodium hydrogen carbonate and saturated sodium chloride. Dry and evaporate the solvent in vacuo. Recrystallize to give the title compound (1.3 g, 79%); mp 184°-86° C.

reactant | 3-amino-2-carbmethoxy-6-chloroindole | 4.4 mmol, 1 g | NC1=C(NC2=CC(=CC=C12)Cl)C(=O)OC | C10H9ClN2O2
reactant | triethylamine | 4.8 mmol | C(C)N(CC)CC | C6H15N
reactant | acetylsalicoyl chloride | 4.8 mmol | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-[(2-Acetoxyphenacyl)amino]-2-carboxy-6-chloroindole | 1.3 g, 79% | C(C)(=O)OC1=C(C(CNC2=C(NC3=CC(=CC=C23)Cl)C(=O)O)=O)C=CC=C1 | C19H15ClN2O5
